US08236756B2
Z-Val-Pro-Val-Pro-OtBu (X) [SEQ ID no: 9]
A solution of Z-Val-Pro-OH (681.3 mg, 1.95 mmol) in dichloromethane (6 mL), was successively treated at room temperature. with (benzotriazol-1-yloxy)tris(dimethylamino)phosphoniun hexafluorophale (BOP) (865.1 mg, 1.95 mmol), H-Val-Pro-OtBu.HCl (500 mg, 1.63 mmol) and triethylamine (TEA) (500 μL, 3.58 mmol). The mixture was stirred overnight at room temperature. Then, the solvent was evaporated, the residue was dissolved in dichloromethane and washed with citric acid (10%), NaHCO3 (10%) and brine. The organic layer was dried (Na2SO4) and evaporated to dryness leaving a residue that was purified on a column chromatography with hexane-ethyl acetate, 2:1 to give X (68% yield).

reactant | Z-Val-Pro-OH | 1.95 mmol, 681.3 mg | N([C@@H](C(C)C)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C18H24N2O5
reactant | BOP | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | H-Val-Pro-OtBu.HCl | 1.63 mmol, 500 mg | N[C@@H](C(C)C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1.Cl
reactant | triethylamine | 3.58 mmol, 500 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | Z-Val-Pro-Val-Pro-OtBu | 68% yield | N([C@@H](C(C)C)C(=O)N1[C@H](C(=O)N[C@@H](C(C)C)C(=O)N2[C@H](C(=O)OC(C)(C)C)CCC2)CCC1)C(=O)OCC1=CC=CC=C1 | C32H48N4O7
